US07947834B2
4.2: 1-(3,4-Dihydroquinolin-1(2H)-ylcarbonyl)-3-methyl-1H-imidazol-3-ium Iodide
13.3 g of 1-(1H-imidazol-1-ylcarbonyl)-1,2,3,4-tetrahydroquinoline, 133 ml of acetonitrile and 14.6 ml of iodomethane are introduced into a 500 ml round-bottomed flask. The reaction mixture is stirred for 20 h and then the solvent is evaporated under reduced pressure to result in 23 g of 1-(3,4-dihydroquinolin-1(2H)-ylcarbonyl)-3-methyl-1H-imidazol-3-ium iodide.

reactant | 1-(1H-imidazol-1-ylcarbonyl)-1,2,3,4-tetrahydroquinoline | 13.3 g | N1(C=NC=C1)C(=O)N1CCCC2=CC=CC=C12 | C13H13N3O
reactant | iodomethane | 14.6 ml | IC | CH3I
solvent | acetonitrile | 133 ml | C(C)#N | C2H3N
product | 1-(3,4-Dihydroquinolin-1(2H)-ylcarbonyl)-3-methyl-1H-imidazol-3-ium Iodide | [I-].N1(CCCC2=CC=CC=C12)C(=O)N1C=[N+](C=C1)C | InChI=1S/C14H16N3O.HI/c1-15-9-10-16(11-15)14(18)17-8-4-6-12-5-2-3-7-13(12)17;/h2-3,5,7,9-11H,4,6,8H2,1H3;1H/q+1;/p-1
